US06291452B1
A mixture of (3RS)-3-benzyloxycarbonylamino-5-cyclohexyl-2,3-dihydro-9-methyl-1-(1-triphenylmethylimidazol-4-yl)methyl-1H-1,4-benzodiazepin-2-one (0.5 g) and 30% hydrobromic acid in acetic acid (2.0 ml) was stirred at room temperature overnight. The reaction mixture was poured into a mixture of an ice and ethyl acetate under stirring. The separated water layer was washed with ethyl acetate once, and neutralized with a saturated aqueous solution of sodium bicarbonate. The resultant aqueous mixture was extracted with ethyl acetate and the extract was dried over sodium sulfate. Removal of the solvent in vacuo afforded (3RS)-3-amino-5-cyclohexyl-2,3-dihydro-1-(imidazol-4-yl)methyl-9-methyl-1H-1,4-benzodiazepin-2-one (174 mg, 72.1%) as a crystalline powder.

reactant | (3RS)-3-benzyloxycarbonylamino-5-cyclohexyl-2,3-dihydro-9-methyl-1-(1-triphenylmethylimidazol-4-yl)methyl-1H-1,4-benzodiazepin-2-one | 0.5 g | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2C)CC=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C47H45N5O3
reactant | hydrobromic acid | Br | BrH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
product | (3RS)-3-amino-5-cyclohexyl-2,3-dihydro-1-(imidazol-4-yl)methyl-9-methyl-1H-1,4-benzodiazepin-2-one | 174 mg, 72.1% | NC1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2C)CC=2N=CNC2)=O | C20H25N5O
